US09029374B2
2,3-dichloroaniline (0.097 mL, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (0.1 g, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(2,3-dichlorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (51 mg, 51%) as a white solid. Mass Spectrum: M+H+ 490.

reactant | 2,3-dichloroaniline | 0.82 mmol, 0.097 mL | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 0.1 g | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(2,3-dichlorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 51 mg, 51% | ClC1=C(C=CC=C1Cl)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H25Cl2N3O4
